US04000283
Production of 3,4,5-trimethoxyphenyl-(3,4-dimethyl-2-pyridyl) carbinol (II)
40 g of 2-bromo-3,4-dimethylpyridine dissolved in 50 ml of anhydrous ether are slowly added, with agitation and under a nitrogen atmosphere, to 300 ml of a 0.9 M solution of butyl-lithium in ether cooled to -40° C. The resulting mixture is agitated for 2 hours at this temperature, and 50 g of 3,4,5-trimethoxybenzaldehyde dissolved in 200 ml of anhydrous benzene are added, and the mixture kept at a temperature below -25° C. Agitation is performed for 1 hour at -15° C, and the reaction is continued until ambient temperature is reached. The mixture is poured on to ice and dilute hydrochloric acid, the acid layer is made alkaline with a current of ammonia, while cooling externally with ice. The precipitate is collected by filtration, supplying 62.6 g of (II). Yield 96%. An analysis sample is crystallized from alcohol (m.p. = 104-6° C). Analysis: C17H21NO4. Calculated: C = 67.31, H = 6.98, N = 4.62. Found: C = 67.23, H = 7.33, N = 4.57.

reactant | 2-bromo-3,4-dimethylpyridine | 40 g | BrC1=NC=CC(=C1C)C | C7H8BrN
reactant | butyl-lithium | C(CCC)[Li]
reactant | 3,4,5-trimethoxybenzaldehyde | 50 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 3,4,5-trimethoxyphenyl-(3,4-dimethyl-2-pyridyl) carbinol | Yield 96% | COC=1C=C(C=C(C1OC)OC)C(O)C1=NC=CC(=C1C)C | C17H21NO4
